US07244843B2
To a solution of 2-(2-propenyl)-5-trifluoromethylbenzenesulfonamide (780 mg, 2.94 mmol) in nitrogen-degassed dichloromethane (30 mL) containing potassium carbonate (1.62 g, 11.8 mmol) was added iodine (1.49 g, 5.88 mmol). After stirring for 2 h, the reaction was quenched with 10% aqueous sodium thiosulfate (ca. 14 mL). The dichloromethane was removed in vacuo and the residue was diluted with methanol (10 mL) and 0.25 N potassium carbonate in 70% aqueous methanol. Additional methanol was added to produce a nearly homogeneous solution. After 10 min, the reaction was concentrated in vacuo to remove most of the methanol. The residue was partitioned between dichloromethane (30 mL) and water (10 mL). The aqueous layer was extracted with dichloromethane (5 mL) and the combined organic layers were dried (magnesium sulfate) and concentrated in vacuo to provide 8,8a-dihydro-5-(trifluoromethyl)-1H-azirino[1,2-b][1,2]benzothiazine 3,3-dioxide as a white solid (685 mg (92%): LCMS (net. ion spectrum) m/z 262.

reactant | 2-(2-propenyl)-5-trifluoromethylbenzenesulfonamide | 2.94 mmol, 780 mg | C(C=C)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N | C10H10F3NO2S
reactant | potassium carbonate | 11.8 mmol, 1.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 5.88 mmol, 1.49 g | II | I2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 8,8a-dihydro-5-(trifluoromethyl)-1H-azirino[1,2-b][1,2]benzothiazine 3,3-dioxide | FC(C1=CC2=C(CC3N(S2(=O)=O)C3)C=C1)(F)F | C10H8F3NO2S
